US08530473B2
1.2 g of tert-butyl ester of 1,1-difluoro-6-aza-spiro[2.5]octane-6-carboxylic acid is put in 24 mL of dichloromethane. 24 mL of 4M hydrochloric acid in dioxane is added at room temperature. The solution is stirred for 4 h and is evaporated to dryness. 1 g of 1,1-difluoro-6-aza-spiro[2.5]octane hydrochloride is obtained.

reactant | 1,1-difluoro-6-aza-spiro[2.5]octane-6-carboxylic acid | FC1(CC12CCN(CC2)C(=O)O)F | C8H11F2NO2
reactant | hydrochloric acid | 4M, 24 mL | Cl | ClH
solvent | dichloromethane | 24 mL | ClCCl | CH2Cl2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 1,1-difluoro-6-aza-spiro[2.5]octane hydrochloride | 1 g | Cl.FC1(CC12CCNCC2)F | InChI=1S/C7H11F2N.ClH/c8-7(9)5-6(7)1-3-10-4-2-6;/h10H,1-5H2;1H
